US09145433B2
To a stirring solution of (2′-(4-fluoro-3-methylphenyl)-[3,3′-bipyridin]-6-yl)methanamine (2.0 g) in CH2Cl2 (30 mL) under nitrogen atmosphere, i-Pr2NEt (2.6 mL) was added and stirred for 10 min at room temperature. Ethyl 2-chloro-2-oxoacetate (1.1 mL) as neat was added dropwise for 10 min. After 1 h, the reaction mixture was concentrated, partitioned between CH2Cl2 (75 mL)/aq. NaCl (20 mL) and the organic layer was separated. Usual workup and purification by chromatography (Combiflash® companion System® with RediSep® silica gel column 40 g and 50-100% EtOAc/hexanes as an elutant) provided 1.4 g of ethyl 2-(((2′-(4-fluoro-3-methylphenyl)-[3,3′-bipyridin]-6-yl)methyl)amino)-2-oxoacetate as an off-white solid. 1H NMR (300 MHz, DMSO-d6): δ 9.41 (t, J=6.2 Hz, 1H), 8.67 (dd, J=4.7, 1.7 Hz, 1H), 8.30 (dd, J=2.4, 0.9 Hz, 1H), 7.87 (dd, J=7.8, 1.7 Hz, 1H), 7.56 (dd, J=8.1, 2.3 Hz, 1H), 7.49 (dd, J=7.8, 4.8 Hz, 1H), 7.29-7.22 (m, 2H), 6.98 (dd, J=7.7, 1.1 Hz, 2H), 4.42 (d, J=6.1 Hz, 2H), 4.23 (q, J=7.1 Hz, 2H), 2.21-2.09 (m, 3H), 1.26 (t, J=7.1 Hz, 3H).

reactant | (2′-(4-fluoro-3-methylphenyl)-[3,3′-bipyridin]-6-yl)methanamine | 2.0 g | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=NC(=CC1)CN)C | C18H16FN3
reactant | i-Pr2NEt | 2.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Ethyl 2-chloro-2-oxoacetate | 1.1 mL | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(((2′-(4-fluoro-3-methylphenyl)-[3,3′-bipyridin]-6-yl)methyl)amino)-2-oxoacetate | 1.4 g | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=NC(=CC1)CNC(C(=O)OCC)=O)C | C22H20FN3O3
